### PR TITLE
[Merged by Bors] - feat(UniformSpace.Basic): define product of uniformities

### PR DESCRIPTION
**Pull request by D-Thomine**
Define a product of uniformities (`UniformityProd`) and prove a couple of lemmas (`ball_prod`, and the dubiously-named `UniformityProd_of_uniform_prod`). The goal is to make the manipulation of uniformities in product spaces more user-friendly.

The statement of another lemmas is reworded to use UniformityProd. I also reformulated a few lemmas to make them easier to grasp in the documentation.

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Product.20of.20entourages/near/449906080)

Edit: Paging Patrick, since you contributed to this file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 1]
```diff
@@ -1566,8 +1568,8 @@ example [UniformSpace α] [UniformSpace β] :
 
 theorem uniformity_prod [UniformSpace α] [UniformSpace β] :
     𝓤 (α × β) =
-      ((𝓤 α).comap fun p : (α × β) × α × β => (p.1.1, p.2.1)) ⊓
-        (𝓤 β).comap fun p : (α × β) × α × β => (p.1.2, p.2.2) :=
+      ((𝓤 α).comap fun ((a₁, _), (a₂, _)) ↦ (a₁, a₂)) ⊓
+        (𝓤 β).comap fun ((_, b₁), (_, b₂)) ↦ (b₁, b₂) :=
```
Comment (eric-wieser) [inline Mathlib/Topology/UniformSpace/Basic.lean:1572]: I think this new spelling is worse; while the source may be more readable the generated `Expr` is much more verbose, as it now contains `match` statements (aka `uniformity_prod._match_1` and `uniformity_prod._match_2`)

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 2]
```diff
@@ -1596,12 +1598,33 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
   exact ⟨u, hu, fun a b c hab => @huvt ((_, _), (_, _)) ⟨hab, refl_mem_uniformity hv⟩⟩
 #align mem_uniformity_of_uniform_continuous_invariant mem_uniformity_of_uniformContinuous_invariant
 
+/-- An entourage of the diagonal in α and an entourage in β yield an entourage in α × β once we
+permute coordinates.-/
+def UniformityProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
+    { ((a₁, b₁), (a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v }
```
Comment (eric-wieser) [inline Mathlib/Topology/UniformSpace/Basic.lean:1604]: Could consider `Equiv.prodProdProdComm _ _ _ _ ⁻¹' (u ×ˢ v)`, though maybe it's not better.

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: I've reverted to the former spelling. The only one for which I've kept the new spelling is the (new) definition `UniformityProd`, which, if I'm not mistaken, doesn't generate anything strange.

That's a good lesson to always check the generated expressions; I'll keep that in mind!

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: I've tried it, but in the end, I didn't see how it helped, and it made the definition slightly harder to parse for a human. The main issue being that there is almost no lemmas relating to `Equiv.prodProdProdComm`, and the little there is is easily `simp`-able, so I couldn't leverage this expression to make it useful.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 3]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
   rcases mem_prod_iff.1 (mem_map.1 <| hf hs) with ⟨u, hu, v, hv, huvt⟩
   exact ⟨u, hu, fun a b c hab => @huvt ((_, _), (_, _)) ⟨hab, refl_mem_uniformity hv⟩⟩
 
-theorem mem_uniform_prod [t₁ : UniformSpace α] [t₂ : UniformSpace β] {a : Set (α × α)}
-    {b : Set (β × β)} (ha : a ∈ 𝓤 α) (hb : b ∈ 𝓤 β) :
-    { p : (α × β) × α × β | (p.1.1, p.2.1) ∈ a ∧ (p.1.2, p.2.2) ∈ b } ∈ 𝓤 (α × β) := by
-  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap ha) (preimage_mem_comap hb)
+/-- An entourage of the diagonal in α and an entourage in β yield an entourage in α × β once we
+permute coordinates.-/
+def UniformityProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/Basic.lean:1403]:
```suggestion
def uniformityProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
```

**Comment by urkud** [comment]
Should it be called `entourageProd`? @PatrickMassot

**Comment by D-Thomine** [comment]
> Should it be called `entourageProd`? Uniformity is the filter, not its base sets. @PatrickMassot

@urkud : I had the same exchange with Sébastien Gouëzel on another file a couple of weeks ago. The decision was to use "entourage" there, and it makes the file clearer.

I've implemented this change (UniformityProd -> entourageProd).

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: Fixed the capitalization.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 4]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
   exact ⟨u, hu, fun a b c hab => @huvt ((_, _), (_, _)) ⟨hab, refl_mem_uniformity hv⟩⟩
 
-theorem mem_uniform_prod [t₁ : UniformSpace α] [t₂ : UniformSpace β] {a : Set (α × α)}
-    {b : Set (β × β)} (ha : a ∈ 𝓤 α) (hb : b ∈ 𝓤 β) :
-    { p : (α × β) × α × β | (p.1.1, p.2.1) ∈ a ∧ (p.1.2, p.2.2) ∈ b } ∈ 𝓤 (α × β) := by
-  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap ha) (preimage_mem_comap hb)
+/-- An entourage of the diagonal in α and an entourage in β yield an entourage in α × β once we
+permute coordinates.-/
+def entourageProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
+    { ((a₁, b₁),(a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v }
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Basic.lean:1404]:
```suggestion
    {((a₁, b₁), (a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v}
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 5]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
+
+theorem entourage_prod_def {u : Set (α × α)} {v : Set (β × β)} {p : (α × β) × α × β} :
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Basic.lean:1406]:
```suggestion
theorem mem_entourageProd {u : Set (α × α)} {v : Set (β × β)} {p : (α × β) × α × β} :
```
Could you also review the other theorem names?

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 4 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: Done.

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: Done.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 6]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
   rcases mem_prod_iff.1 (mem_map.1 <| hf hs) with ⟨u, hu, v, hv, huvt⟩
   exact ⟨u, hu, fun a b c hab => @huvt ((_, _), (_, _)) ⟨hab, refl_mem_uniformity hv⟩⟩
 
-theorem mem_uniform_prod [t₁ : UniformSpace α] [t₂ : UniformSpace β] {a : Set (α × α)}
-    {b : Set (β × β)} (ha : a ∈ 𝓤 α) (hb : b ∈ 𝓤 β) :
-    { p : (α × β) × α × β | (p.1.1, p.2.1) ∈ a ∧ (p.1.2, p.2.2) ∈ b } ∈ 𝓤 (α × β) := by
-  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap ha) (preimage_mem_comap hb)
+/-- An entourage of the diagonal in α and an entourage in β yield an entourage in α × β once we
```
Comment (eric-wieser) [inline Mathlib/Topology/UniformSpace/Basic.lean:1401]:
```suggestion
/-- An entourage of the diagonal in `α` and an entourage in `β` yield an entourage in `α × β` once we
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 7]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
+
+theorem mem_entourageProd {u : Set (α × α)} {v : Set (β × β)} {p : (α × β) × α × β} :
+    p ∈ entourageProd u v ↔ (p.1.1, p.2.1) ∈ u ∧ (p.1.2, p.2.2) ∈ v := by rfl
+
+theorem entourageProd_mem_uniformity [t₁ : UniformSpace α] [t₂ : UniformSpace β] {u : Set (α × α)}
+    {v : Set (β × β)} (hu : u ∈ 𝓤 α) (hv : v ∈ 𝓤 β) :
+    entourageProd u v ∈ 𝓤 (α × β) := by
+  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap hu) (preimage_mem_comap hv)
+
+theorem ball_prod (u : Set (α × α)) (v : Set (β × β)) (x : α × β) :
```
Comment (eric-wieser) [inline Mathlib/Topology/UniformSpace/Basic.lean:1414]:
```suggestion
theorem ball_entourageProd (u : Set (α × α)) (v : Set (β × β)) (x : α × β) :
```

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: Done, thanks!

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 8]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
-    {b : Set (β × β)} (ha : a ∈ 𝓤 α) (hb : b ∈ 𝓤 β) :
-    { p : (α × β) × α × β | (p.1.1, p.2.1) ∈ a ∧ (p.1.2, p.2.2) ∈ b } ∈ 𝓤 (α × β) := by
-  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap ha) (preimage_mem_comap hb)
+/-- An entourage of the diagonal in `α` and an entourage in `β` yield an entourage in `α × β`
+once we permute coordinates.-/
+def entourageProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
+    {((a₁, b₁),(a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v}
+
+theorem mem_entourageProd {u : Set (α × α)} {v : Set (β × β)} {p : (α × β) × α × β} :
+    p ∈ entourageProd u v ↔ (p.1.1, p.2.1) ∈ u ∧ (p.1.2, p.2.2) ∈ v := by rfl
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Topology/UniformSpace/Basic.lean:1407]: Should this (or a version for `((a₁, b₁), (a₂, b₂))`) be a `simp` lemma?

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 9]
```diff
@@ -1396,10 +1398,31 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
+    entourageProd u v ∈ 𝓤 (α × β) := by
+  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap hu) (preimage_mem_comap hv)
+
+theorem ball_entourageProd (u : Set (α × α)) (v : Set (β × β)) (x : α × β) :
+    ball x (entourageProd u v) = ball x.1 u ×ˢ ball x.2 v := by
+  ext p; simp only [ball, entourageProd, Set.mem_setOf_eq, Set.mem_prod, Set.mem_preimage]
+
+theorem entourageProd_subset [UniformSpace α] [UniformSpace β]
+    {s : Set ((α × β) × α × β)} (h : s ∈ 𝓤 (α × β)) :
+    ∃ u ∈ 𝓤 α, ∃ v ∈ 𝓤 β, entourageProd u v ⊆ s := by
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/Basic.lean:1420]: Please add a `Filter.HasBasis` combinator (not tested):
```
theorem Filter.HasBasis.uniformity_prod {ιa ιb : Type*} [UniformSpace α] [UniformSpace β]
    {pa : ιa → Prop} {pb : ιb → Prop} {sa : ιa → Set (α × α)} {sb : ιb → Set (β × β)}
    (ha : (𝓤 α).HasBasis pa sa) (hb : (𝓤 β).HasBasis pb sb) :
    (𝓤 (α × β)).HasBasis (fun i : ιa × ιb ↦ pa i.1 ∧ pb i.2) (fun i ↦ entourageProd (sa i.1) (sb i.2)) :=
    (ha.comap _).inf (hb.comap _)
```
Then `(𝓤 α).basis_sets.uniformity_prod (𝓤 β).basis_sets` will give you this lemma.

Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean:1427]: That works beautifully, thanks for the suggestion!

File: Mathlib/Topology/UniformSpace/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Topology/UniformSpace/Basic.lean]: Done for the proof of `mem_entourageProd`.

I would vote against labelling it as a `simp` lemma. It would break up `entourageProd` a bit too easily and make it harder to use it in a deliberate fashion.

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 10]
```diff
@@ -1396,10 +1398,35 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
   exact ⟨u, hu, fun a b c hab => @huvt ((_, _), (_, _)) ⟨hab, refl_mem_uniformity hv⟩⟩
 
-theorem mem_uniform_prod [t₁ : UniformSpace α] [t₂ : UniformSpace β] {a : Set (α × α)}
-    {b : Set (β × β)} (ha : a ∈ 𝓤 α) (hb : b ∈ 𝓤 β) :
-    { p : (α × β) × α × β | (p.1.1, p.2.1) ∈ a ∧ (p.1.2, p.2.2) ∈ b } ∈ 𝓤 (α × β) := by
-  rw [uniformity_prod]; exact inter_mem_inf (preimage_mem_comap ha) (preimage_mem_comap hb)
+/-- An entourage of the diagonal in `α` and an entourage in `β` yield an entourage in `α × β`
+once we permute coordinates.-/
+def entourageProd (u : Set (α × α)) (v : Set (β × β)) : Set ((α × β) × α × β) :=
+    {((a₁, b₁),(a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v}
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Basic.lean:1404]:
```suggestion
  {((a₁, b₁),(a₂, b₂)) | (a₁, a₂) ∈ u ∧ (b₁, b₂) ∈ v}
```

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 11]
```diff
@@ -1396,10 +1398,35 @@ theorem mem_uniformity_of_uniformContinuous_invariant [UniformSpace α] [Uniform
...
+theorem ball_entourageProd (u : Set (α × α)) (v : Set (β × β)) (x : α × β) :
+    ball x (entourageProd u v) = ball x.1 u ×ˢ ball x.2 v := by
+  ext p; simp only [ball, entourageProd, Set.mem_setOf_eq, Set.mem_prod, Set.mem_preimage]
+
+theorem Filter.HasBasis.uniformity_prod {ιa ιb : Type*} [UniformSpace α] [UniformSpace β]
+    {pa : ιa → Prop} {pb : ιb → Prop} {sa : ιa → Set (α × α)} {sb : ιb → Set (β × β)}
+    (ha : (𝓤 α).HasBasis pa sa) (hb : (𝓤 β).HasBasis pb sb) :
+    (𝓤 (α × β)).HasBasis (fun i : ιa × ιb ↦ pa i.1 ∧ pb i.2)
+    (fun i ↦ entourageProd (sa i.1) (sb i.2)) :=
+    (ha.comap _).inf (hb.comap _)
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Basic.lean:1423]:
```suggestion
  (ha.comap _).inf (hb.comap _)
```

**Review by sgouezel — COMMENTED** [review]
bors d+
